US06812218B2
b) Synthesis of ditetradecylamine (2)
47 mmol of ditetradecylamide (20 g) were dissolved in 700 ml of anhydrous THF, under nitrogen, in a round-bottomed flask equipped with a condenser and a drying tube. The mixture was cooled to 0° C. and then 89 mmol of lithium aluminum hydride LiAlH4 (3.4 g) were added. After addition, the mixture was then heated under reflux for 5 hours, with vigorous stirring. Once the reaction was complete, the mixture was cooled to 0° C. in order to carry out the hydrolysis by successive addition of 3.4 ml of water, 6.8 ml of 1N sodium hydroxide and 3.4 ml of water. After stirring for 1 hour at room temperature, the crude reaction material was filtered on a Büchner funnel and the filtrate was concentrated. The product obtained was then purified on 1.5 equivalents of A-15 resin (15 g) in 300 ml of THF, with stirring for 30 minutes. The resin was filtered and redissolved in 300 ml of THF, with addition of 2 equivalents of triethylamine (19.2 ml). After stirring for 30 minutes, the solution was filtered and the filtrate was concentrated to give 17.72 g of a white solid (yield: 92%).

reactant | ditetradecylamide | 47 mmol, 20 g | C(CCCCCCCCCCCCC)[N-]CCCCCCCCCCCCCC
reactant | water | 3.4 ml | O | H2O
reactant | sodium hydroxide | 1N, 6.8 ml | [OH-].[Na+]
reactant | water | 3.4 ml | O | H2O
reactant | triethylamine | 19.2 ml, 2 equivalents | C(C)N(CC)CC | C6H15N
solvent | THF | 700 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | ditetradecylamine | 17.72 g, yield: 92% | C(CCCCCCCCCCCCC)NCCCCCCCCCCCCCC | C28H59N
